US04689417
5.0 g of ethyl 3-chloro-1-methylpyrazole-4-carboxylate was dispersed in dry diethyl ether under cooling at -60° C. or lower. Into this solution there was added lithium diisopropylamide (1.2 molar equivalent) and after stirring for an hour sulfur dioxide gas was passed into this solution for 30 minutes. After stirring at -60° C. for 2 hours the reaction mixture was stirred at room temperature for 2 hours. Filtration and drying of the precipitate gave 6.0 g of lithium 3-chloro-4-ethoxycarbonyl-1-methylpyrazole-5-sulfinate. This product was added into a solution of 100 ml of ice-water and 100 ml of dichloromethane and 6.0 g of N-chloro succinimide was added thereinto at 0°-5° C. After stirring for 45 minutes at room temperature the dichloromethane layer was separated and water layer was extracted with 100 ml of dichloromethane. The combined dichloromethane solution of 3-chloro-4-ethoxycarbonyl-1-methylpyrazole-5-sulfonyl chloride (b.p.: 133° C./ 0.25 mmHg.) was added dropwise into 80 ml of aqueous ammonia (28%) under cooling at 10° C. After stirring for an hour, evaporation of the solvent gave 3.6 g of 3-chloro-4-ethoxycarbonyl-1-methylpyrazole-5-sulfonamide. m.p.: 121°-123° C.

reactant | ethyl 3-chloro-1-methylpyrazole-4-carboxylate | 5.0 g | ClC1=NN(C=C1C(=O)OCC)C | C7H9ClN2O2
reactant | lithium diisopropylamide | 1.2 molar | C(C)(C)[N-]C(C)C.[Li+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | diethyl ether | C(C)OCC | C4H10O
product | lithium 3-chloro-4-ethoxycarbonyl-1-methylpyrazole-5-sulfinate | 6.0 g | ClC1=NN(C(=C1C(=O)OCC)S(=O)[O-])C.[Li+] | InChI=1S/C7H9ClN2O4S.Li/c1-3-14-7(11)4-5(8)9-10(2)6(4)15(12)13;/h3H2,1-2H3,(H,12,13);/q;+1/p-1
